US07473705B2
8.39 g (17.0 mmol) of tert-butyl-dimethyl-{4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-silane was dissolved in 70 mL of THF and 25.4 ml (25.4 mmol) of 1M TBAF solution in THF was added at 0° C. The mixture was stirred at room temperature overnight, a 1M KHSO4 solution was added and the product was extracted with ethyl acetate (2×). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated. Column chromatography on silica gel with n-heptane/ethyl acetate 5:1 as eluent yielded 4-[2,2,2-trifluoro- 1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenol as a yellow liquid, MS: 379 (M−H)−.

reactant | tert-butyl-dimethyl-{4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-silane | 17.0 mmol, 8.39 g | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCC1=CC=C(C=C1)OC)(C)C | C23H28F6O3Si
reactant | TBAF | 25.4 mmol, 1M, 25.4 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-[2,2,2-trifluoro- 1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenol | FC(C(C(F)(F)F)(OCC1=CC=C(C=C1)OC)C1=CC=C(C=C1)O)(F)F | C17H14F6O3
